US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-7-methoxy-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-7-fluoro-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (60 mg) was added to a mixed liquid of a 28% sodium methoxide solution (135 mg) and pyridine (0.5 ml), and the mixture was stirred at 40° C. for 2 hours. The reaction mixture was acidified with a 3% aqueous solution of citric acid, and solids formed were collected by filtration. The solids were subjected to azeotropic distillation with ethanol and toluene. Hexane was added to the residue to conduct filtration, thereby obtaining the title compound (20 mg) as a yellow powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-7-fluoro-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 60 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C=C12)F)[N+](=O)[O-])=O)C(=O)O)F)F | C16H8F3N3O5
reactant | sodium methoxide | 135 mg | C[O-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-7-methoxy-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 20 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C=C12)OC)[N+](=O)[O-])=O)C(=O)O)F)F | C17H11F2N3O6
